US04599357
The mixture of 3.0 g of 1-methacryloylindoline-2-carboxylic acid ethyl ester and 0.97 g of thioacetic acid is stirred under nitrogen at room temperature for 4 days. Traces of thioacetic acid are removed by distillation, to give the 1-(3-acetylthio-2-methylpropanoyl)-indoline-2-carboxylic acid ethyl ester, showing peaks in the NMR-spectrum at 9.45, 2.33 and 1.25 ppm. Said compound can also be prepared analogous to the method illustrated by Example 1.

reactant | 1-methacryloylindoline-2-carboxylic acid ethyl ester | 3.0 g | C(C)OC(=O)C1N(C2=CC=CC=C2C1)C(C(=C)C)=O | C15H17NO3
reactant | thioacetic acid | 0.97 g | C(C)(=S)O | C2H4OS
product | 1-(3-acetylthio-2-methylpropanoyl)-indoline-2-carboxylic acid ethyl ester | C(C)OC(=O)C1N(C2=CC=CC=C2C1)C(C(CSC(C)=O)C)=O | C17H21NO4S
